US05849449
4-(2-Cyanoacetamido)-3-methylphenyl Methacrylate
A solution of 38.04 g (0.20 mol) of 4-(2-cyanoacetamido)-3-methylphenol, 37.00 g (0.24 mol) of methacrylic anhydride, 47.46 g (0.60 mol) of pyridine and 300 ml of THF was treated with 2.44 g (0.02 mol) of 4-dimethylaminopyridine and stirred for 16 hours. The solution was poured into dilute HCl and the solid precipitate was collected, washed with water and recrystallized from isopropanol (300 ml of solution) with 4-t-butylpyrocatechol inhibitor. The solid was collected, washed with a small amount of isopropanol, then with ligroine and dried (mp=153°-40° C.).

reactant | 4-(2-cyanoacetamido)-3-methylphenol | 0.20 mol, 38.04 g | C(#N)CC(=O)NC1=C(C=C(C=C1)O)C | C10H10N2O2
reactant | methacrylic anhydride | 0.24 mol, 37.00 g | C(C(=C)C)(=O)OC(C(=C)C)=O | C8H10O3
reactant | pyridine | 0.60 mol, 47.46 g | N1=CC=CC=C1 | C5H5N
reactant | HCl | Cl | ClH
catalyst | 4-dimethylaminopyridine | 0.02 mol, 2.44 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 4-(2-Cyanoacetamido)-3-methylphenyl Methacrylate | C(C(=C)C)(=O)OC1=CC(=C(C=C1)NC(CC#N)=O)C | C14H14N2O3
